US06900344B2
20 g (0.123 mole) carsalam (available from Sigma-Aldrich of Shiboygan Falls, Wis.), 43.16 g (0.123 mole) 2-(8-bromooctyl)malonic acid diethyl ester (available from Allied Signal, Inc. of Morristown, N.J.), 15.52 g (0.137 mole) sodium carbonate (available from Sigma-Aldrich of St. Louis, Mo.) and 100 mL dimethylacetamide (DMA) (available from Sigma-Aldrich) were heated to about 75° C. for about 5 hours. The solids were filtered off and the filtrate was stirred in 2N sodium hydroxide at 45° C. for a total of about 9 hours to form N-(2-hydroxybenzoyl)-10-amino)-decanoic acid. Formation of the decanoic acid was evident. It was then heated to about 100° C. to determine if the decanoic acid was indeed forming. HPLC of the reaction showed the 9.09 peak transforms to 8.79, 7.23, 5.78 min. Last HPLC showed 49.6 area % of peak 5.78 min, indicating formation of about 50% (w/w) of the decanoic acid.

reactant | carsalam | 0.123 mole, 20 g | C=1C=CC2=C(C1)C(=O)NC(=O)O2 | C8H5NO3
reactant | 2-(8-bromooctyl)malonic acid diethyl ester | 0.123 mole, 43.16 g | C(C)OC(C(C(=O)OCC)CCCCCCCCBr)=O | C15H27BrO4
reactant | sodium carbonate | 0.137 mole, 15.52 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylacetamide | 100 mL | CC(=O)N(C)C | C4H9NO
product | decanoic acid | C(CCCCCCCCC)(=O)O | C10H20O2
